US07851473B2
(4) 4-[4-(4-Fluorophenyl)-1,3-thiazol-2-yl]-N-pyridin-3-ylpiperidine-1-carboxamide
A mixture of 2,2,2-trichloroethyl pyridin-3-ylcarbamate (226 mg, 0.839 mmol), 1-[4-(4-fluorophenyl)-1,3-thiazol-2-yl]piperazine (200 mg, 0.762 mmol) and diisopropylethylamine (0.266 ml, 1.52 mmol) in dimethylsulfoxide (2.5 ml) was stirred at 70° C. for 14 hours. Water was poured into the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) and recrystallized from a mixed solvent of hexane and ethyl acetate to give the desired product (170 mg, 58.2%) as a solid.

reactant | 2,2,2-trichloroethyl pyridin-3-ylcarbamate | 0.839 mmol, 226 mg | N1=CC(=CC=C1)NC(OCC(Cl)(Cl)Cl)=O | C8H7Cl3N2O2
reactant | 1-[4-(4-fluorophenyl)-1,3-thiazol-2-yl]piperazine | 0.762 mmol, 200 mg | FC1=CC=C(C=C1)C=1N=C(SC1)N1CCNCC1 | C13H14FN3S
reactant | diisopropylethylamine | 1.52 mmol, 0.266 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
reactant | dimethylsulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | 4-[4-(4-Fluorophenyl)-1,3-thiazol-2-yl]-N-pyridin-3-ylpiperidine-1-carboxamide | 170 mg, 58.2% | FC1=CC=C(C=C1)C=1N=C(SC1)C1CCN(CC1)C(=O)NC=1C=NC=CC1 | C20H19FN4OS
